**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Gate-Drive-Transformer
* Matchcode:              WE-GDT
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Toby      
* Date and Time:          2022-05-23
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
*nominal
.SUBCKT 760301103 1 2 3 4 5 6
L1 2 N001 475u Rser=0.52
L2 4 3 76u Rser=0.11
L4 1 N001 2.3u
C1 3 N001 3.5p
L3 6 5 76u Rser=0.09
C2 6 2 3.5p
k1 L1 L2 L3 1
.ENDS 760301103

*nominal
.SUBCKT 760301104 1 2 3 4 5 6
L1 2 N001 470u Rser=0.46
L2 4 3 117.5u Rser=0.17
L4 1 N001 1.9u
C1 3 N001 3.5p
L3 6 5 117.5u Rser=0.17
C2 6 2 3.5p
k1 L1 L2 L3 1
.ENDS 760301104

*nominal
.SUBCKT 760301105 1 2 3 4 5 6
L1 2 N001 370u Rser=0.45
L2 4 3 370u Rser=0.45
L4 1 N001 1.1u
C1 3 N001 4.5p
L3 6 5 370u Rser=0.45
C2 6 2 4.5p
k1 L1 L2 L3 1
.ENDS 760301105

*nominal
.SUBCKT 760301106 1 2 3 4
L1 2 N001 510u Rser=0.38
L2 4 3 510u Rser=0.47
L3 1 N001 1.4u
C1 3 N001 10p
k1 L1 L2 1
.ENDS 760301106

*nominal
.SUBCKT 760301107 1 2 3 4
L1 2 N001 950u Rser=0.92
L2 4 3 422u Rser=0.4
L3 1 N001 2.5u
C1 3 N001 9p
k1 L1 L2 1
.ENDS 760301107

*nominal
.SUBCKT 760301108 1 2 3 4
L1 2 N001 700u Rser=0.55
L2 4 3 112u Rser=0.1
L3 1 N001 1.8u
C1 3 N001 9p
k1 L1 L2 1
.ENDS 760301108